US08981104B2
rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(5-fluoro-2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
3.73 g (10.41 mmol) of rac-ethyl 5-{[2-(5-fluoro-2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate were dissolved in 30 ml of dichloromethane and, with stirring, cooled to 0° C. A solution of 2.95 g (13.53 mmol) of di-tert-butyl dicarbonate in 10 ml of dichloromethane was then slowly added dropwise, and the reaction mixture was stirred at room temperature overnight. The reaction solution was then concentrated to dryness and the residue was triturated with diethyl ether. After filtration, the filter cake was washed repeatedly with diethyl ether and then air-dried. This gave 4.17 g (9.09 mmol, 87% of theory) of the target compound.

reactant | rac-ethyl 5-{[2-(5-fluoro-2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | 10.41 mmol, 3.73 g | FC=1C=CC(=C(C1)CCNC1C=2C=CC(=NC2CCC1)C(=O)OCC)O | C20H23FN2O3
reactant | di-tert-butyl dicarbonate | 13.53 mmol, 2.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(5-fluoro-2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC(=C1)F)O | C25H31FN2O5
